US07612067B2
C. 4-{3-[3-Chloro-5-(2-methyl-2H-[1,2,4]triazol-3-yl)-thiophen-2-yl]-2,6-dimethyl-imidazo[1,2-b]pyridazin-8-yl}-heptan-4-ol.
A solution of 1-{3-[3-chloro-5-(2-methyl-2H-[1,2,4]triazol-3-yl)-thiophen-2-yl]-2,6-dimethyl-imidazo[1,2-b]pyridazin-8-yl}-butan-1-one (0.15 g, 0.36 mmol) and THF (5 mL) is cooled to 0° C., and a 2.0 M propyl magnesium bromide solution in diethylether (0.22 mL, 0.43 mmol) is added. The reaction is warmed to ambient temperature, diluted with ethyl acetate (30 mL), and washed with a sat. NH4Cl solution (30 mL). The organic layer is dried over MgSO4, filtered, and concentrated. The residue is purified by ISCO flash chromatography (20%-40% EtOAc gradient) to furnish the title compound (0.016 g, 0.017 mmol, 47%). 1H-NMR (CDCl3), δ 0.90 (t, J=7.4 Hz, 6H), 1.12-1.29 (m, 2H), 1.37-1.54 (m, 2H), 1.86-2.04 (m, 4H), 2.50 (s, 3H), 2.54 (s, 3H), 4.15 (s, 3H), 6.11 (bs, 1H), 6.73 (s, 1H), 7.48 (s, 1H), 7.90 (s, 1H) ppm. LC/MS (m/z): calcd. for C22H27ClN6OS (M+H)+: 459.2; found: 459.3.

reactant | 1-{3-[3-chloro-5-(2-methyl-2H-[1,2,4]triazol-3-yl)-thiophen-2-yl]-2,6-dimethyl-imidazo[1,2-b]pyridazin-8-yl}-butan-1-one | 0.36 mmol, 0.15 g | ClC1=C(SC(=C1)C=1N(N=CN1)C)C1=C(N=C2N1N=C(C=C2C(CCC)=O)C)C | C19H19ClN6OS
reactant | THF | 5 mL | C1CCOC1 | C4H8O
reactant | propyl magnesium bromide | 2.0 M | C(CC)[Mg]Br
reactant | diethylether | 0.43 mmol, 0.22 mL | C(C)OCC | C4H10O
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | 4-{3-[3-Chloro-5-(2-methyl-2H-[1,2,4]triazol-3-yl)-thiophen-2-yl]-2,6-dimethyl-imidazo[1,2-b]pyridazin-8-yl}-heptan-4-ol | 0.017 mmol, 0.016 g, 47% | ClC1=C(SC(=C1)C=1N(N=CN1)C)C1=C(N=C2N1N=C(C=C2C(CCC)(CCC)O)C)C | C22H27ClN6OS
